US06649611B2
(2R, 5S)-5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-N-methyl-benzenesulfonamide
To a solution of (2R, 5S)-2-Chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone (375 mg, 1.26 mmol) in butanone (12 ml) was added 5-Chloro-2-hydroxy-N-methyl-benzenesulfonamide (280 mg, 1.26 mmol), potassium carbonate (348 mg, 2.52 mmol) and potassium iodide (209 mg, 1.26 mmol). The resulting reaction mixture was refluxed for 4 hours. It was allowed to cool, diluted with ethyl acetate and washed with brine. The organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the above titled compound (320 mg, 53% yield).

reactant | (2R, 5S)-2-Chloro-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 1.26 mmol, 375 mg | ClCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C15H20ClFN2O
reactant | 5-Chloro-2-hydroxy-N-methyl-benzenesulfonamide | 1.26 mmol, 280 mg | ClC=1C=CC(=C(C1)S(=O)(=O)NC)O | C7H8ClNO3S
reactant | potassium carbonate | 2.52 mmol, 348 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.26 mmol, 209 mg | [I-].[K+]
solvent | butanone | 12 ml | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R, 5S)-5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-N-methyl-benzenesulfonamide | 320 mg, 53% yield | ClC=1C=CC(=C(C1)S(=O)(=O)NC)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H27ClFN3O4S
